US09334245B2
(2S,4S)-5-Biphenyl-4-yl-4-[(3-hydroxy-isoxazole-5-carbonyl)-amino]-2-hydroxymethyl-5-methyl-hexanoic Acid
3-Hydroxyisoxazole-5-carboxylic acid (15.8 mg, 122 μmol) was combined with HATU (46.6 mg, 122 μmol) in DMF (1.0 mL) and stirred for 5 minutes. DIPEA (53.3 μL, 0.306 mmol) was added, followed by (2S,4S)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-5-methylhexanoic acid ethyl ester (HCl salt; 40 mg, 0.1 mmol). The mixture was stirred at room temperature for 20 minutes. The reaction was quenched with water and extracted with EtOAc. The organic layer was concentrated and 1 M aqueous LiOH (1.0 mL, 1.0 mmol) and EtOH (2.0 mL) were added. The resulting mixture was stirred at room temperature for 2 hours. The reaction was quenched with AcOH and purified by preparative HPLC. The clean fractions were combined and lyophilized to yield the title compound (40 mg, 95% purity). MS m/z [M+H]+ calc'd for C24H26N2O6, 439.18. found 439.4.

reactant | 3-Hydroxyisoxazole-5-carboxylic acid | 122 μmol, 15.8 mg | OC1=NOC(=C1)C(=O)O | C4H3NO4
reactant | HATU | 122 μmol, 46.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.306 mmol, 53.3 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,4S)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-5-methylhexanoic acid ethyl ester | 0.1 mmol, 40 mg | C(C)OC([C@@H](C[C@@H](C(C)(C)C1=CC=C(C=C1)C1=CC=CC=C1)N)CO)=O | C22H29NO3
reactant | LiOH | 1.0 mmol, 1 M, 1.0 mL | [Li+].[OH-]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | (2S,4S)-5-Biphenyl-4-yl-4-[(3-hydroxy-isoxazole-5-carbonyl)-amino]-2-hydroxymethyl-5-methyl-hexanoic Acid | 40 mg, 95% | C1(=CC=C(C=C1)C([C@H](C[C@H](C(=O)O)CO)NC(=O)C1=CC(=NO1)O)(C)C)C1=CC=CC=C1 | C24H26N2O6
